US07612114B2
(R)-6-{2-{Ethyl{4-[2-(4-methylpiperidin-1-yl)ethoxy]benzyl}amino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-{2-[ethyl(4-hydroxybenzoyl)amino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (16 mg) and 2-chloro-1-(4-methylpiperidin-1-yl)ethanone (9.5 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (6.9 mg) was obtained.

reactant | pivalic acid (R)-6-{2-[ethyl(4-hydroxybenzoyl)amino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 16 mg | C(C)N(C1=C(C=C(C(=C1)OC)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC=C(C=C1)O)=O | C32H37NO6
reactant | 2-chloro-1-(4-methylpiperidin-1-yl)ethanone | 9.5 mg | ClCC(=O)N1CCC(CC1)C | C8H14ClNO
product | (R)-6-{2-{Ethyl{4-[2-(4-methylpiperidin-1-yl)ethoxy]benzyl}amino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 6.9 mg | C(C)N(C1=C(C=C(C(=C1)OC)OC)[C@H]1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)OCCN1CCC(CC1)C | C35H46N2O4
